US07981903B2
Step B/Example 90: 2,4-difluoro-6-[(2-{[4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide
2,4-difluoro-6-({2-{[4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (200 mg, 0.301 mmol) was suspended in a mixture of dioxane (10 mL) and aqueous 2.0N NaOH (5 mL) and stirred rapidly under microwave heating (120° C.) for 10 minutes.

reactant | 2,4-difluoro-6-({2-{[4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 0.301 mmol, 200 mg | FC1=C(C(=O)N)C(=CC(=C1)F)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1[C@H](COCC1)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C32H31F2N7O5S
reactant | NaOH | 2.0N, 5 mL | [OH-].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2,4-difluoro-6-[(2-{[4-[(3S)-3-methyl-4-morpholinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | FC1=C(C(=O)N)C(=CC(=C1)F)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)N1[C@H](COCC1)C)OC)=NC=C2 | C25H25F2N7O3
